US05800733
A solution of 5.0 g of 4'-hydroxybiphenyl-4-carbonitrile and 5.1 g of 8-chloro-1-octanol in 100 ml of ethyl methyl ketone was treated with 14.1 g of finely powdered potassium carbonate and the mixture was heated under slight reflux overnight. The suspension was suction filtered and the filtrate was concentrated in a vacuum. Chromatography of the residue on silica gel with hexane/ethyl acetate (vol. 1:1) gave 4.9 g of 4'-(8-hydroxyoctyloxy)biphenyl-4-carbonitrile.

reactant | 4'-hydroxybiphenyl-4-carbonitrile | 5.0 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C13H9NO
reactant | 8-chloro-1-octanol | 5.1 g | ClCCCCCCCCO | C8H17ClO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl methyl ketone | 100 ml | CC(=O)CC | C4H8O
product | 4'-(8-hydroxyoctyloxy)biphenyl-4-carbonitrile | 4.9 g | OCCCCCCCCOC1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C21H25NO2
